US07196104B2
Preparation CB: 1-(6-Bromo-pyridin-2-yl)-ethanol
6-Bromo-2-pyridine carboxaldehyde (1.0 g, 5.37 mmol) in dry THF (20 mL) was cooled to −78° C. followed by adding MeMgI (2.0 mL, 5.91 mmol) dropwise via the addition funnel. The cooling bath was removed. The resulting mixture was stirred for 1 h then quenched with sat. NH4Cl. Solvent was removed. The residue was partitioned between water and CHCl3. The organic layer was washed with H2O, brine, dried over MgSO4. Solvent was removed and crude compound was purified by chromatography on silica gel. Elution with hexane:acetone mixture (70:30) gave a white solid. MS m/z: 201.9(M+H). Calc'd. for C7H8BrNO-200.98.

reactant | 6-Bromo-2-pyridine carboxaldehyde | 5.37 mmol, 1.0 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | MeMgI | 5.91 mmol, 2.0 mL | C[Mg]I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-yl)-ethanol | BrC1=CC=CC(=N1)C(C)O | C7H8BrNO
